US07947686B2
Step 2. Preparation of 4-fluoro-2-((S)-2-methoxy-1-methyl-ethylamino)-benzoic acid tert-butyl ester
A mixture of 2,4-difluoro-benzoic acid tert-butyl ester (30 g, 140.05 mmol) and (S)-2-methoxy-1-methyl-ethylamine (100 mL) was stirred at 65° C. for 2 days. A saturated solution of NaHCO3 was added and the mixture was extracted with dichloromethane (3×). The organic phase was washed with water (2×), brine, dried over sodium sulfate filtered and evaporated to dryness to obtain a crude, which was purified by column chromatography on silica gel (exane-EtOAc 9:1). The title compound (33.38 g, 84%) was obtained as oil.

reactant | 2,4-difluoro-benzoic acid tert-butyl ester | 140.05 mmol, 30 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)F)F)=O | C11H12F2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | (S)-2-methoxy-1-methyl-ethylamine | 100 mL | COC[C@H](C)N | C4H11NO
product | 4-fluoro-2-((S)-2-methoxy-1-methyl-ethylamino)-benzoic acid tert-butyl ester | 33.38 g, 84% | C(C)(C)(C)OC(C1=C(C=C(C=C1)F)N[C@H](COC)C)=O | C15H22FNO3
